US07582638B2
4-(4-amino-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester
To a slurry of 4-(4-nitro-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (33.5 g, 89.7 mmol) in THF (300 mL) and ethanol (300 mL) add 10% Pd/C (1.80 g, 1.69 mmol) as a slurry in ethanol (25 mL). Place the mixture in a Parr shaker under hydrogen atmosphere (25-40 psi) at room temperature for 8 hours. Filter the mixture through a pad of diatomaceous earth and wash with ethanol until the filtrate is colorless. Concentrate the filtrate under reduced pressure to give dark oil. Subject residue to silica gel chromatography eluting with 1% then 2.5% MeOH/dichloromethane to afford the title compound (30.3 g, 98% yield) as an orange glass. (ES+): m/z 344 (M++H).

reactant | 4-(4-nitro-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 89.7 mmol, 33.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)[N+](=O)[O-] | C19H23N3O5
reactant | MeOH dichloromethane | CO.ClCCl
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.69 mmol, 1.80 g | [Pd] | Pd
product | 4-(4-amino-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 30.3 g, 98% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)N | C19H25N3O3
